### PR TITLE
[Merged by Bors] - feat(NumberTheory/LSeries/Convolution): new file; convolution of sequences and products of L-series

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This is the next PR in a sequence that establishes general results on L-series.
See [this thread on Zulip](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/L-series/near/424858837).

This adds the definition of the Dirichlet convolution of two sequences (as `LSeries.convolution`) and shows that the associated L-series is the product of the L-series associated to the two original sequences.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/Convolution.lean [hunk 1]
```diff
@@ -0,0 +1,203 @@
...
+    LSeries (f ⍟ g) s = LSeries f s * LSeries g s :=
+  (LSeriesHasSum.convolution hf.LSeriesHasSum hg.LSeriesHasSum).LSeries_eq
+
+/-- The L-series of the convolution product `f ⍟ g` of two sequences `f` and `g`
+equals the product of their L-series in their common half-plane of absolute convergence. -/
+lemma LSeries_convolution' {f g : ℕ → ℂ} {s : ℂ}
+    (hf : abscissaOfAbsConv f < s.re) (hg : abscissaOfAbsConv g < s.re) :
+    LSeries (f ⍟ g) s = LSeries f s * LSeries g s :=
+  LSeries_convolution (LSeriesSummable_of_abscissaOfAbsConv_lt_re hf)
+    (LSeriesSummable_of_abscissaOfAbsConv_lt_re hg)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Convolution.lean:160]: maybe `LSeries_convolution_eq_mul` is a better name?

File: Mathlib/NumberTheory/LSeries/Convolution.lean [hunk 2]
```diff
@@ -0,0 +1,203 @@
...
+@[inherit_doc]
+scoped[LSeries.notation] infixl:70 " ⍟ " => LSeries.convolution
+
+open scoped LSeries.notation
+
+/-- The product of two arithmetic functions defines the same function as the Dirichlet convolution
+of the functions defined by them. -/
+lemma ArithmeticFunction.mul_to_convolution {R : Type*} [Semiring R] (f g : ArithmeticFunction R) :
+    f ⍟ g = (f * g :) := by
+  simp only [convolution, ArithmeticFunction.toArithmeticFunction_eq_self]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Convolution.lean:63]: The name doesn't seem right; perhaps `ArithmeticFunction.coe_mul`, or even `ArithmeticFunction.coe_mul_eq_convolution`? I would also rather spell the conclusion as `f ⍟ g = ↑(f * g)`.

File: Mathlib/NumberTheory/LSeries/Convolution.lean [hunk 3]
```diff
@@ -0,0 +1,203 @@
...
+/-!
+### Multiplication of L-series
+-/
+
+open Set Nat in
+/-- We give an expression of the `LSeries.term` of the convolution of two functions. -/
+lemma term_convolution (f g : ℕ → ℂ) (s : ℂ) (n : ℕ) :
+    term (f ⍟ g) s n =
+      ∑' (b : (fun p : ℕ × ℕ ↦ p.1 * p.2) ⁻¹' {n}),
+        term f s b.val.1 * term g s b.val.2 := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Convolution.lean:91]: I was confused by this – the formulation seemed bizarre ("why is he taking a `tsum` over an obviously finite set?") until I realised that the index set on the RHS is infinite if `n = 0` (in particular, it doesn't match `Nat.divisorsAntidiagonal n`). Maybe a clarifying comment might be a good idea? I also think it might be a good idea to also provide the formulation in terms of `Nat.divisorsAntidiagonal` first, as a separate lemma, and then deduce this formulation from that (the total length of those two proofs would be comparable to this single big one).

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Convolution.lean:91]: OK. I'm splitting off the `Nat.divisorsAntidiagonal` version. I have also added some text to the docstrings and golfed the proof a little bit.

File: Mathlib/NumberTheory/LSeries/Convolution.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Convolution.lean:63]: OK. I take `ArithmeticFunction.coe_mul`; the alternative does not fit so well as the equality is written the other way round.

File: Mathlib/NumberTheory/LSeries/Convolution.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Convolution.lean:160]: This is in line with `LSeries_add` (the L-series of a sum) and `LSeries_neg` (the L-series of a negative). But of course, here the opration on the right is not the same as on the left.
I have no strong feelings here, but would perhaps like further input.

File: Mathlib/NumberTheory/LSeries/Convolution.lean [hunk 4]
```diff
@@ -83,52 +83,56 @@ lemma convolution_map_zero {R : Type*} [Semiring R] (f g : ℕ → R) : (f ⍟ g
...
+  rw [term_of_ne_zero hp₁ f s, term_of_ne_zero hp₂ g s, mul_comm_div, div_div,
+    ← mul_div_assoc, ← natCast_mul_natCast_cpow, ← Nat.cast_mul, mul_comm p.2, hp]
+
 open Set Nat in
-/-- We give an expression of the `LSeries.term` of the convolution of two functions. -/
+/-- We give an expression of the `LSeries.term` of the convolution of two functions
+in terms of an a priori infinte sum over all pairs `(k, m)` with `k * m = n`
+(the set we sum over is infinite when `n = 0`). This is the version needed for the
+proof that `L (f ⍟ g) = L f * L g`. -/
 lemma term_convolution (f g : ℕ → ℂ) (s : ℂ) (n : ℕ) :
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Convolution.lean:106]: How about
````
let m : ℕ × ℕ → ℕ := fun p ↦ p.1 * p.2
  rcases eq_or_ne n 0 with rfl | hn
  · -- show that both sides vanish when `n = 0`
    refine (term_zero ..).trans ?_ 
    -- the right hand sum is over the union below, but in each term, one factor is always zero
    have hS : m ⁻¹' {0} = {0} ×ˢ univ ∪ univ ×ˢ {0} := by
      ext
      simp only [mem_preimage, mem_singleton_iff, _root_.mul_eq_zero, mem_union, mem_prod, mem_univ,
        and_true, true_and, m]
    convert tsum_zero.symm using 3 with ⟨⟨a, b⟩, hab⟩
    simp only [hS] at hab
    rcases hab with ⟨rfl, -⟩ | ⟨-, rfl⟩ <;> simp only [term_zero, zero_mul, mul_zero]
  · -- now `n > 0`
    have H : m ⁻¹' {n} = n.divisorsAntidiagonal := by
      ext
      simp [m, hn]
    rw [H, Finset.tsum_subtype' n.divisorsAntidiagonal fun x ↦ term f s x.1 * term g s x.2]
    exact term_convolution' ..
````
(sorry, github won't let me make this as a "suggestion")

File: Mathlib/NumberTheory/LSeries/Convolution.lean [hunk 5]
```diff
@@ -83,52 +83,56 @@ lemma convolution_map_zero {R : Type*} [Semiring R] (f g : ℕ → R) : (f ⍟ g
 ### Multiplication of L-series
 -/
 
+/-- We give an expression of the `LSeries.term` of the convolution of two functions
+in terms of a sum over `Nat.divisorsAntidiagonal`. -/
+lemma term_convolution' (f g : ℕ → ℂ) (s : ℂ) (n : ℕ) :
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Convolution.lean:88]: I feel the primed and non-primed versions should be the other way around.

File: Mathlib/NumberTheory/LSeries/Convolution.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/Convolution.lean:164]: If you prefer this name that's fine

File: Mathlib/NumberTheory/LSeries/Convolution.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Convolution.lean:106]: (If you select the range of lines (so that they are highlighted) before clicking on the "Comment" button, and then click on the `±` symbol, the suggestions stuff should work.)

Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/Convolution.lean:106]: (I'm aware of the interface, but github doesn't support making suggestions on line ranges that include one or more deleted lines.)

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Convolution.lean:106]: The `convert` is fairly slow, so I do the vanishing of the terms first, but the re-arrangement looks good!

File: Mathlib/NumberTheory/LSeries/Convolution.lean (hunk 5 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Convolution.lean:88]: OK.

File: Mathlib/NumberTheory/LSeries/Convolution.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Convolution.lean:106]: (OK; I hadn't noticed that before.)

File: Mathlib/NumberTheory/LSeries/Convolution.lean (hunk 5 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/Convolution.lean:88]: You marked this as "resolved" but the naming didn't change – did you perhaps swap a different primed/unprimed lemma pair instead?

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Convolution.lean:86]: I thought you meant `LSeries_convolution` and its primed variant; I guess I didn't read carefully.
Regarding `term_convolution`, the (currently) unprimed version is the one that is actually used, that's why I left it unprimed. If you think the other one is more useful outside, I can also change it there.
Should I revert the other changes? One version is in terms of `LSerieSummable`, the other in terms of abscissae of convergence, and I don't know whether there is a reason to consider one more canonical than the other...

Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/Convolution.lean:86]: I feel the version with `sum` and `divisors_antidiagonal` is a more natural statement, hence my suggestion. But let's not spend too long debating over a single character! :-) I have no strong opinion about the other one.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Convolution.lean]: I've switched them now; I'm leaving the other ones.

**Comment by loefflerd** [comment]
LGTM

maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
